US07727988B2
5-(6-Chloro-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione (Prep92)
A mixture of 5-(6-chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep91, 1.05 g, 4.10 mmol), and K2CO3 (565 mg, 4.10 mmol) in DMF (20 ml) was stirred 20 minutes at room temperature. 3-Bromo-1,1dimethoxy-propane (635 μl, 4.65 mmol) was added in three portions over 6 days. Solvent was then removed under vacuum at 40° C. and the residue washed once with petroleum ether and twice with ethyl acetate. Ethyl acetate phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98:2:0.2) to give 534 mg of the title compound as a white solid (40% yield).

reactant | 5-(6-chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride | 4.10 mmol, 1.05 g | Cl.ClC1=CC=C(C=N1)C=1C(NC(NC1)=O)=O
reactant | K2CO3 | 4.10 mmol, 565 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-Bromo-1,1dimethoxy-propane | 4.65 mmol, 635 μl | BrCCC(OC)OC | C5H11BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-(6-Chloro-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione | 534 mg, 40% yield | ClC1=CC=C(C=N1)C=1C(NC(N(C1)CCC(OC)OC)=O)=O | C14H16ClN3O4
